US08247396B2
7-(methyloxy)-8-[(phenylmethyl)oxy]quinoline (0.30 g; 1.13 mmol) and 77% by weight m-chloroperbenzoic acid (0.38 g; 1.69 mmol) are added in succession to dry CH2Cl2 (11 ml) at 4° C. under argon. The mixture is stirred for 48 hours at ambient temperature, then CH2Cl2 (40 ml) is added. The reaction medium is washed with a saturated aqueous solution of NaHCO3 (2×50 ml) and the solvent is evaporated under reduced pressure. The resulting oil is purified by silica gel chromatography, eluted with a CH2Cl2/CH3OH (95/5, v/v) mixture to yield 7-(methyloxy)-8-[(phenylmethyl)oxy]quinoline-N-oxide in the form of a yellow oil (0.18 g; 0.64 mmol, yield=58%). NMR-1H (250 MHz, CDCl3) δ, ppm: 8.43 (dd, 3J (H, H)=6.0 Hz, 4J (H, H)=1.0 Hz, 1H); 7.68-7.58 (m, 4H); 7.41-7.30 (m, 4H); 7.10 (dd, 3J (H, H)=8.5 Hz, 3J (H, H)=6.0 Hz, 1H); 5.23 (s, 2H); 3.96 (s, 3H). NMR-13C (63 MHz, CDCl3) δ, ppm: 138.4; 128.9; 128.7; 128.2; 127.8; 127.6; 125.7; 124.9; 123.4; 119.5; 118.8; 116.8; 107.7; 75.2; 57.1. MS (CID, NH3): m/z=282 (MH+). Analysis (%) for C17H15NO3: calculated C, 72.58. H, 5.37. N, 4.98. found C, 72.74. H, 4.91. N, 4.87.

reactant | 7-(methyloxy)-8-[(phenylmethyl)oxy]quinoline | 1.13 mmol, 0.30 g | COC1=CC=C2C=CC=NC2=C1OCC1=CC=CC=C1 | C17H15NO2
reactant | m-chloroperbenzoic acid | 1.69 mmol, 0.38 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11 ml | C(Cl)Cl | CH2Cl2
product | 7-(methyloxy)-8-[(phenylmethyl)oxy]quinoline-N-oxide | yield=58% | COC1=CC=C2C=CC=[N+](C2=C1OCC1=CC=CC=C1)[O-] | C17H15NO3
